** ISIM circuit **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: mizra
* Sun, Mar 05, 2023 17:07:38 
*

*## Multisim Component RB1k ##*
rRB1k BRes1k Base 1000 

*## Multisim Component DigBVin100 ##*
vDigBVin100 BVin100 0 dc {DigBVin100Param} ac 0 0

*## Multisim Component DUT ##*
qDUT Collector Base 0 2N3415__BJT_NPN__1

*## Multisim Component DAC1 ##*
vDAC1 VDAC1 0 dc {DAC1Param} ac 0 0

*## Multisim Component DigBVin1k ##*
vDigBVin1k BVin1k 0 dc {DigBVin1kParam} ac 0 0

*## Multisim Component DigCVin10 ##*
vDigCVin10 CVin10 0 dc {DigCVin10Param} ac 0 0

*## Multisim Component DigCVin100 ##*
vDigCVin100 CVin100 0 dc {DigCVin100Param} ac 0 0

*## Multisim Component DigCVin1k ##*
vDigCVin1k CVin1k 0 dc {DigCVin1kParam} ac 0 0

*## Multisim Component RB100 ##*
rRB100 BRes100 Base 100 

*## Multisim Component V15 ##*
vV15 -5V 0 dc -5 ac 0 0

*## Multisim Component V14 ##*
vV14 12V 0 dc 12 ac 0 0

*## Multisim Component DAC0 ##*
vDAC0 VDAC0 0 dc {DAC0Param} ac 0 0

*## Multisim Component RC10 ##*
rRC10 CRes10 Collector 10 

*## Multisim Component RC100 ##*
rRC100 CRes100 Collector 100

*## Multisim Component RC1k ##*
rRC1k CRes1k Collector 1000 


.MODEL 2N3415__BJT_NPN__1   NPN(Is=12.03f Xti=3 Eg=1.11 Vaf=37.37 Bf=377.5 Ne=1.971
+               Ise=3.346p Ikf=.1072 Xtb=1.5 Br=4.379 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=5.777p Mjc=.3199 Vjc=.75 Fc=.5 Cje=8.307p Mje=.384 Vje=.75
+               Tr=707.6p Tf=385.4p Itf=.17 Vtf=3 Xtf=8 Rb=10)



** C_switch **

*## Multisim Component RC6 ##*
rRC6 VDAC0mult 24 100000 

*## Multisim Component Q8 ##*
xQ8 24 CVin10 0 ZVN0124__MOS_ENH_N__1

*## Multisim Component Q7 ##*
xQ7 CRes10 24 VDAC0mult NTA4151P/ON__MOS_ENH_P__1


.SUBCKT ZVN0124__MOS_ENH_N__1 3 4 5
*               D G S
M1 3 2 5 5 MN0124
RG 4 2 225
RL 3 5 2.4E7
D1 5 3 DN0124
.MODEL MN0124 NMOS VTO=1.5512 RS=1.436 RD=9.254 IS=1E-15 KP=1.077
+CGSO=60E-12 CGDO=2E-12 CBD=36E-12 PB=1 LAMBDA=0
.MODEL DN0124 D IS=3.071E-12 N=1.026 RS=0.511
.ENDS ZVN0124

.SUBCKT NTA4151P/ON__MOS_ENH_P__1  1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Oct  4, 10
* MODEL FORMAT: PSpice
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-0.868304 LAMBDA=0.0695331 KP=4.15322
+CGSO=1.37892e-06 CGDO=1.15666e-07
RS 8 3 0.165069
D1 1 3 MD
.MODEL MD D IS=9.46735e-09 RS=0.233288 N=1.5 BV=27.9
+IBV=0.00025 EG=1 XTI=1 TT=2.5e-09
+CJO=2.21746e-11 VJ=2.55501 M=0.749801 FC=0.5
RDS 3 1 1.33e+11
RD 9 1 0.0301336
RG 2 7 26.3891
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=6.92221e-11 VJ=0.5 M=0.9 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3.00001e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.02409e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS NTA4151P/ON



** C_switch **

*## Multisim Component RC7 ##*
rRC7 VDAC0mult 30 100000 

*## Multisim Component Q4 ##*
xQ4 30 CVin100 0 ZVN0124__MOS_ENH_N__1

*## Multisim Component Q3 ##*
xQ3 CRes100 30 VDAC0mult NTA4151P/ON__MOS_ENH_P__1



** C_switch **

*## Multisim Component RC8 ##*
rRC8 VDAC0mult 36 100000 

*## Multisim Component Q6 ##*
xQ6 36 CVin1k 0 ZVN0124__MOS_ENH_N__1

*## Multisim Component Q5 ##*
xQ5 CRes1k 36 VDAC0mult NTA4151P/ON__MOS_ENH_P__1



** V_div **

*## Multisim Component U1 ##*
xU1 CRes10 43 12V -5V 43 OPA234/TI__OPAMP__1

*## Multisim Component Rm8 ##*
rRm8 CRes10Div 0 10000 

*## Multisim Component Rm7 ##*
rRm7 CRes10Div 43 40000 


* OPA234
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA234
* Date: 01JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS055B ï¿½ MAY 1996 ï¿½ REVISED APRIL 2008 
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* This model is applicable to OPA234, OPA2234, OPA4234
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
*****************************************************************************
.SUBCKT OPA234/TI__OPAMP__1   1 2 3 4 5
*
C1   11 12 6.995E-12
C2    6  7 30E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 479.3E6 -480E6 480E6 480E6 -480E6
GA    6  0 11 12 65.97E-6
GCM   0  6 10 99 1.046E-9
IEE   3 10 DC 6.100E-6
HLIM 90  0 VLIM 1E3
Q1   11  2 13 QX
Q2   12  64 14 QX
R2    6  9 100.0E3
RC1   4 11 15.16E3
RC2   4 12 15.16E3
RE1  13 10 6.429E3
RE2  14 10 6.429E3
REE  10 99 50.00E6
RO1   8  5 10
RO2   7 99 10
VB    9  0 DC 0
VC    3 53 DC 1.3
VE   54  4 DC 0.65
VLIM  7  8 DC 0
VLP  91 0 DC 10
VLN   0 92 DC 10
* Output Supply Mirror
DQ1   20    21    DX
DQ2   22    20    DX
VQ1   21     0    0
VQ2   22     0    0
*adds quiescent plus positive output current
FQ1    3     0    POLY(1) VQ1   235E-6   1
*adds quiescent plus negative output current
FQ2    0     4    POLY(1) VQ2   235E-6  -1
*mirrors output current-used by FQ1 and FQ2
FQ3    0    20    POLY(1) VLIM 0   1
* delta Quiescent Current / delta Supplies
*determines change in IQ with change in power supply voltages
RQ     3     4    1E6
* Diff Input Capacitance
CDIF   1     2    5E-12
* Common Mode Input Capacitance
C1CM   1    99    6E-12
C2CM   2    99    6E-12
* Input Voltage Noise
VN1   61     0  0.6
VN2    0    62  0.6
DN1   61    63  DY
DN2   63    62  DY
*adds 1/f noise to model. Adjusted to agree w/actual en
EN    64     1  63   0    0.8
RN1    0    65  60.3865
RN2   65    66  60.3865
RN3   66     0  120.773
RN4    0    67  60.3865
RN5   67    68  60.3865
RN6   68     0  120.773
**************************
.MODEL DX D(IS=800.0E-18)
*adds voltage noise
.MODEL DY D(IS=1.9E-16 RS=2000 AF=1 KF=2.258E-17)
.MODEL QX PNP(IS=800.0E-18 BF=60)
.ENDS OPA234/TI
*



** V_div **

*## Multisim Component U6 ##*
xU6 CRes100 50 12V -5V 50 OPA234/TI__OPAMP__1

*## Multisim Component Rm4 ##*
rRm4 CRes100Div 0 10000 

*## Multisim Component Rm3 ##*
rRm3 CRes100Div 50 40000 



** V_div **

*## Multisim Component U7 ##*
xU7 CRes1k 57 12V -5V 57 OPA234/TI__OPAMP__1

*## Multisim Component Rm6 ##*
rRm6 CRes1kDiv 0 10000 

*## Multisim Component Rm5 ##*
rRm5 CRes1kDiv 57 40000 



** V_div **

*## Multisim Component U8 ##*
xU8 Collector 64 12V -5V 64 OPA234/TI__OPAMP__1

*## Multisim Component Rm2 ##*
rRm2 CollectorDiv 0 10000 

*## Multisim Component Rm1 ##*
rRm1 CollectorDiv 64 40000 



** V_div **

*## Multisim Component U3 ##*
xU3 BRes100 8 12V -5V 8 OPA234/TI__OPAMP__1

*## Multisim Component Rm10 ##*
rRm10 bres100div 0 10000 

*## Multisim Component Rm9 ##*
rRm9 bres100div 8 40000 



** V_div **

*## Multisim Component U4 ##*
xU4 BRes1k 9 12V -5V 9 OPA234/TI__OPAMP__1

*## Multisim Component Rm12 ##*
rRm12 bres1kdiv 0 10000 

*## Multisim Component Rm11 ##*
rRm11 bres1kdiv 9 40000 



** V_div **

*## Multisim Component U5 ##*
xU5 Base 10 12V -5V 10 OPA234/TI__OPAMP__1

*## Multisim Component Rm14 ##*
rRm14 basediv 0 10000 

*## Multisim Component Rm13 ##*
rRm13 basediv 10 40000 



** 2x multiplier DAC1 **

*## Multisim Component Q12 ##*
qQ12 -5V 6 VDAC1mult QBC51-10PA/NXP__BJT_PNP__1

*## Multisim Component Q11 ##*
qQ11 12V 6 VDAC1mult QBD135__BJT_NPN__1

*## Multisim Component RC9 ##*
rRC9 VDAC1mult 5 10000 

*## Multisim Component RC5 ##*
rRC5 5 0 10000 

*## Multisim Component U12 ##*
xU12 VDAC1 5 12V -5V 6 OPA234/TI__OPAMP__1


*
**********************************************************
*
* BC51-10PA 
*
* NXP Semiconductors
*
* Medium power PNP transistor
* IC   = 1 A
* VCEO = 45 V 
* hFE  = 63 - 160 @ 2V/150mA
*
*
*
* Package: SOT 1061
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
*
*
* 
* Simulator: Spice 2       
*
**********************************************************
*#
.MODEL QBC51-10PA/NXP__BJT_PNP__1 PNP 
+     IS=6.1530E-14
+     NF=0.9911
+     ISE=1.382E-16
+     NE=1.089
+     BF=150.8
+     IKF=1.225
+     VAF=105.4
+     NR=0.9965
+     ISC=6.480E-15
+     NC=1.022
+     BR=8.074
+     IKR=0.3627
+     VAR=18.20
+     RB=2
+     IRB=1E-06
+     RBM=2
+     RE=5.562E-02
+     RC=0.1449
+     XTB=0
+     EG=1.11
+     XTI=3
+     CJE=1.157E-10
+     VJE=0.7300
+     MJE=0.3751
+     TF=8.666E-10
+     XTF=1.231
+     VTF=3.008
+     ITF=0.4581
+     PTF=0
+     CJC=5.264E-11
+     VJC=0.6591
+     MJC=0.4533
+     XCJC=0.4401
+     TR=2.75E-07
+     CJS=0
+     VJS=0.75
+     MJS=0.333
+     FC=0.9427

.MODEL QBD135__BJT_NPN__1 NPN(
+ IS = 4.815E-14
+ NF = 0.9897
+ ISE = 1.389E-14
+ NE = 1.6
+ BF = 124.2
+ IKF = 1.6
+ VAF = 222
+ NR = 0.9895
+ ISC = 1.295E-13
+ NC = 1.183
+ BR = 13.26
+ IKR = 0.29
+ VAR = 81.4
+ RB = 0.5
+ IRB = 1E-06
+ RBM = 0.5
+ RE = 0.165
+ RC = 0.096
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.243E-10
+ VJE = 0.7313
+ MJE = 0.3476
+ TF = 6.478E-10
+ XTF = 29
+ VTF = 2.648
+ ITF = 3.35
+ PTF = 0
+ CJC = 3.04E-11
+ VJC = 0.5642
+ MJC = 0.4371
+ TR = 1E-32
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.9359 )



** DAC0 multiplication **

*## Multisim Component Q2 ##*
qQ2 12V 4 VDAC0mult QBD135__BJT_NPN__1

*## Multisim Component RC4 ##*
rRC4 VDAC0mult 3 10000 

*## Multisim Component RC3 ##*
rRC3 3 0 10000 

*## Multisim Component U2 ##*
xU2 VDAC0 3 12V -5V 4 OPA234/TI__OPAMP__1



** B_switch **

*## Multisim Component Q10 ##*
xQ10 VDAC1mult 7 13 NX3008PBKW/NXP__MOS_ENH_P__1

*## Multisim Component Q13 ##*
xQ13 BRes1k 7 13 NX3008PBKW/NXP__MOS_ENH_P__1

*## Multisim Component RB1 ##*
rRB1 13 7 50000 

*## Multisim Component U14 ##*
mU14 7 BVin1k 0 0 TN2501__DEF__1


*****************************************************************
* NXP NX3008PBKW
*
* Polarity P-Channel
* Ratings 30V/2.800000E+000OHMS/0.2A
*
* Date Created Tue Dec 06 04:01:52 2011
*
*****************************************************************
*
*****************************************************************
.SUBCKT NX3008PBKW/NXP__MOS_ENH_P__1 DRAIN GATE SOURCE
LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.251327412287183
RLD1 5 4 0.0009
LG GATE 1 5.86829939165303e-10
RLG GATE 1 1.47486450063061
LS SOURCE 8 1.04068536331419e-09
RLS2 SOURCE 8 2.61552759366903
RLS1 8 7 0.0518197224723038
RDS 7 4 300000000000 TC=-0.05
RS 6 7 0.0001
RD 3 4 2.24594132827809 TC=0.00600781671686613,1.77583670842129E-05
RBD 9 4 0.191665862149805 TC=0.00600781671686613,1.77583670842129E-05
DBD 9 7 DBD
M1 3 2 6 6 MINT
RGS 2 6 47058823.5294118
CGS 2 6 2.8e-11
RG 1 2 11.2509802775277
* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    2 3 VALUE { V(13, 0)*I(V11) }
E11    12   0  2 3  1
E12    13   0  TABLE {V(12)}
+ -8	32.38
+ -5	33.41
+ -4	33.72
+ -3	33.68
+ -2	31.63
+ -1	18.38
+ -0.5	14.02
+ -0.2	11.63
+ -0.1	10.79
+ 0	9.905
+ 0.1	9
+ 0.2	8.17
+ 0.5	6.44
+ 1	5.05
+ 2	4.01
+ 3	3.56
+ 4	3.27
+ 5	3.07
+ 6	2.92
+ 8	2.69
+ 10	2.53
+ 12	2.41
+ 15	2.27
+ 20	2.1
+ 25	1.99
+ 30	1.91
.MODEL MINT PMOS(Vto=-1.18335565808161 Kp=4.673825e-001 Nfs=1050000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=500)
.MODEL DBD D(Bv=36 Ibv=2.500000E-004 Rs=1E-6 Is=4.01201271070019e-15
+ N=1 M=0.34 VJ=0.52 Fc=0.5 Cjo=1.312e-11 Tt=1.85e-08)
.ENDS

.MODEL TN2501__DEF__1 NMOS (LEVEL=3 RS=0.07 NSUB=1.0E15 KAPPA=0.20 TPG=1 CGDO=3.1716E-10 RD=1.2 VTO=0.700 VMAX=1.0E7 ETA=0.0223089 NFS=6.6E10 TOX=725E-10 LD=1.698E-9 UO=862.425 XJ=6.4666E-7 THETA=1.0E-5 CGSO=2.50E-9 L=2.0E-6 W=59E-3)



** B_switch **

*## Multisim Component Q1 ##*
xQ1 VDAC1mult 1 11 NX3008PBKW/NXP__MOS_ENH_P__1

*## Multisim Component Q9 ##*
xQ9 BRes100 1 11 NX3008PBKW/NXP__MOS_ENH_P__1

*## Multisim Component RB2 ##*
rRB2 11 1 50000 

*## Multisim Component U9 ##*
mU9 1 BVin100 0 0 TN2501__DEF__1




.PARAM DAC0Param=5
.PARAM DAC1Param=0.54700855
.PARAM DigBVin1kParam=IF(BRes==0,5,0)
.PARAM DigBVin100Param=IF(BRes==1,5,0)
.PARAN DigCVin1kParam=IF(CRes==0,5,0)
.PARAM DigCVin100Param=IF(CRes==1,5,0)
.PARAM DigCVin10Param=IF(CRes==2,5,0)
.PARAM CRes=0
.PARAM BRes=0

.OP
.OPT noOpiter GminSteps=0
.SAVE V(vdac1) V(vdac1mult) V(bvin1k) V(bvin100) V(bres1k) V(bres100) V(base) I(Rrb1k) I(Rrb100) Ic(Qdut) Ib(Qdut) Ie(Qdut) V(vdac0) V(vdac0mult) Ie(Qq2) V(cvin1k) V(cvin100) V(cvin10) V(cres1k) V(cres100) V(cres10) V(collector) I(Rrc1k) I(Rrc100) I(Rrc10) V(bres1kdiv) V(bres100div) V(cres1kdiv) V(cres100div) V(cres10div) V(collectordiv) V(basediv)
.end


